US07378417B2
7-Methyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-sulfamoyl-phenyl)-amide
The title compound was prepared from 7-methyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.25) and 3-amino-benzenesulfonamide according to general procedure II. Pale-yellow solid. MS (ISP) 476.5 [(M+H)+]; mp 270-272° C.

reactant | 7-methyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | CC1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F | C15H10F3N3O2
reactant | 3-amino-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)N | C6H8N2O2S
product | 7-Methyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-sulfamoyl-phenyl)-amide | S(N)(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C)C2=CC=C(C=C2)C(F)(F)F | C21H16F3N5O3S
